US04346161
I. 2-Cyanoethyl trans-3-diethylaminoacrylate
A solution of 48 g (0.39 moles) of 2-cyanoethyl propiolate in 100 ml of chloroform was treated with a solution of 28.5 g (0.38 moles) of diethylamine in 100 ml of chloroform. The temperature was kept at 10° to 20° C. during the addition. The chloroform was stripped off and the product used without purification.

reactant | 2-cyanoethyl propiolate | 0.39 moles, 48 g | C(C#C)(=O)OCCC#N | C6H5NO2
reactant | diethylamine | 0.38 moles, 28.5 g | C(C)NCC | C4H11N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Cyanoethyl trans-3-diethylaminoacrylate | C(C)N(/C=C/C(=O)OCCC#N)CC | C10H16N2O2
